US08278442B2
Preparation 87: 4-{4-[(3-Methylbutylamino)methyl]naphthalen-1-yloxy}benzonitrile
Using the procedure outlined in Example 1, 4-(4-formylnaphthalen-1-yloxy)benzonitrile (Preparation 28) and 3-methylbutylamine were converted to the title compound: RT=2.88 min; m/z (ES+)=345.3 [M+H]+.

reactant | 4-(4-formylnaphthalen-1-yloxy)benzonitrile | C(=O)C1=CC=C(C2=CC=CC=C12)OC1=CC=C(C#N)C=C1 | C18H11NO2
reactant | 3-methylbutylamine | CC(CCN)C | C5H13N
product | 4-{4-[(3-Methylbutylamino)methyl]naphthalen-1-yloxy}benzonitrile | CC(CCNCC1=CC=C(C2=CC=CC=C12)OC1=CC=C(C#N)C=C1)C | C23H24N2O
